US04036955
To a solution of 1.2 g of NG -nitro-N2 -(6,7-dimethyl-1-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine benzyl ester in 20 ml of tert-butanol and 5 ml of acetic acid, was added 0.2 g of palladium black and then the mixture was shaken in a hydrogen atmosphere for 20 hours at room temperature. The solution was filtered to remove the catalyst and evaporated to give an oily product. Reprecipitation with ethanol-diethyl ether gave 0.8 g of N2 -(6,7-dimethyl-1-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine.

reactant | nitro-N2 -(6,7-dimethyl-1-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine benzyl ester | C(C1=CC=CC=C1)OC(CN(CC1CCCO1)C([C@@H](N(S(=O)(=O)C1=CC=CC2=CC(=C(C=C12)C)C)[N+](=O)[O-])CCCNC(N)=N)=O)=O | C32H40N6O8S
reactant | hydrogen | [H][H] | H2
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 0.2 g | [Pd] | Pd
product | N2 (6,7-dimethyl-1-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine | 0.8 g | N#N.CC=1C=C2C=CC=C(C2=CC1C)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CC1CCCO1 | InChI=1S/C25H35N5O6S.N2/c1-16-12-18-6-3-9-22(20(18)13-17(16)2)37(34,35)29-21(8-4-10-28-25(26)27)24(33)30(15-23(31)32)14-19-7-5-11-36-19;1-2/h3,6,9,12-13,19,21,29H,4-5,7-8,10-11,14-15H2,1-2H3,(H,31,32)(H4,26,27,28);/t19?,21-;/m0./s1
